US08044052B2
tert-Butyl 4-(3-(5-isopropoxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate
To a stirred solution of tert-butyl 4-(3-(5-hydroxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate (0.6 g, 1.56 mmol) in acetone (5 mL) cooled to 0° C. was added isopropyliodide (0.33 g, 1.96 mmol) and K2CO3 (0.43 g, 3.12 mmol). The reaction mixture was stirred at 80° C. overnight. The reaction mixture was evaporated to dryness and water (10 mL) was added and the mixture was extracted with ethyl acetate three times. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (1:19 acetone:hexane) to give the title compound (0.5 g, 75%). 1H NMR (500 MHz, CDCl3): δ 7.86 (d, J=3.3 Hz, 1H), 7.28 (m, 2H), 6.96 (d, J=7.5 Hz, 1H), 6.91 (m, 2H), 6.84 (d, J=8.5 Hz, 1H), 6.32 (s, 1H), 4.45 (m, 1H), 3.49 (m, 2H), 3.38 (m, 2H), 2.45 (m, 2H), 2.31 (m, 2H), 1.47 (s, 9H), 1.33 (d, J=6 Hz, 6H); m/z (425.2, M+ H+).

reactant | tert-butyl 4-(3-(5-hydroxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 1.56 mmol, 0.6 g | OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C22H26N2O4
reactant | isopropyliodide | 1.96 mmol, 0.33 g | C(C)(C)I | C3H7I
reactant | K2CO3 | 3.12 mmol, 0.43 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | tert-Butyl 4-(3-(5-isopropoxypyridin-2-yloxy)benzylidene)piperidine-1-carboxylate | 0.5 g, 75% | C(C)(C)OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C25H32N2O4
